US07863291B2
To 5-methoxypyridin-2-amine ethoxycarbonyl thiourea (10.21 g, 40 mmol) in ethanol (57 mL) and methanol (57 mL) was added hydroxylamine hydrochloride (14 g, 200 mmol) and Hunig's Base (21 mL, 120 mmol). The mixture was stirred at room temperature for 2 hours, and then heated at 60° C. for 4 hours. The reaction was cooled to room temperature and filtered to remove solids. It was concentrated in vacuo and then suspended in chloroform. The solids were filtered off to yield 6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-amine (6.05 g, 33.2 mmol, 83% yield). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.30 (1 H, d, J=1.83 Hz), 7.24-7.32 (1 H, m), 7.16-7.23 (1 H, m), 5.82 (2 H, br. s.), 3.78 (3 H, s). MS (LC/MS) R.T.=0.53; [M+H]+=165.2.

reactant | 5-methoxypyridin-2-amine ethoxycarbonyl thiourea | 40 mmol, 10.21 g | C(C)OC(=O)NC(=S)N.COC=1C=CC(=NC1)N
reactant | hydroxylamine hydrochloride | 200 mmol, 14 g | Cl.NO
reactant | Hunig's Base | 120 mmol, 21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 57 mL | C(C)O | C2H6O
solvent | methanol | 57 mL | CO | CH4O
product | 6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 33.2 mmol, 6.05 g, 83% yield | COC=1C=CC=2N(C1)N=C(N2)N | C7H8N4O
